US09169203B2
Step 2: Synthesis of decyl 2-hydroxy-4-(methylsulfinyl)butanoate.
To a solution of decyl 2-hydroxy-4-(methylthio)butanoate (20.05 g, 69.03 mmol) in dichloromethane (300 mL) at 0° C. was added mCPBA (77%, 14.7 g, 65.6 mmol) portionwise over 30 min. The resulting mixture was allowed to warm to room temperature with stirring overnight. Another portion of mCPBA (77%, 1.4 g, 6.25 mmol) was added to the solution at 0° C. and the resulting mixture was allowed to warm to room temperature with stirring over the weekend. The reaction was washed with 10% sodium bisulfite (2×100 mL), saturated sodium bicarbonate (3×150 mL), 1N HCl (1×150 mL), and brine (1×200 mL). The organic layer was dried over magnesium sulfate, filtered and evaporated to give a crude oil. The oil was purified by silica gel chromatography with 0-6% methanol/dichloromethane to give a light yellow oil (20.61 g, 97%). 1H NMR (500 MHz, DMSO-d6) δ ppm 0.85 (t, J=6.83 Hz, 3 H) 1.10-1.37 (m, 14 H) 1.50-1.65 (m, 2 H) 1.80-1.93 (m, 1 H) 1.97-2.08 (m, 1 H) 2.52 (d, J=3.81 Hz, 3 H) 2.60-2.75 (m, 1 H) 2.75-2.91 (m, 1 H) 3.98-4.12 (m, 2 H) 4.12-4.20 (m, 1 H) 5.62 (dd, J=5.72, 2.54 Hz, 1 H). m/z 307 (MH+).

reactant | decyl 2-hydroxy-4-(methylthio)butanoate | 69.03 mmol, 20.05 g | OC(C(=O)OCCCCCCCCCC)CCSC | C15H30O3S
reactant | mCPBA | 65.6 mmol, 14.7 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | mCPBA | 6.25 mmol, 1.4 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | decyl 2-hydroxy-4-(methylsulfinyl)butanoate | 20.61 g, 97% | OC(C(=O)OCCCCCCCCCC)CCS(=O)C | C15H30O4S
